US05561101
7-chloro-3-hydroxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide (Table A, cpd. no. 13)
A mixture of 1.8 g of 7-chloro-3-cyano-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide, 50 ml of 1% NaOH and 50 ml of THF are stirred at room temperature for 3 hrs. The THF is removed by evaporation and the mixture is diluted with water and extracted twice with ethyl acetate. The aqueous solution is acidified with 2N--H2SO4. The resulting acid solution is extracted with 3×100 ml ethyl acetate and the organic phases combined, dried over Na2SO4 and concentrated to give a pale yellow solid. This residue is taken up in ethyl acetate and treated with activated charcoal until the yellow base line material is removed to give the title product as a white solid m.p. 188°-190° C.

reactant | 7-chloro-3-cyano-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | 1.8 g | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=CC(=N1)OC)OC)C#N | C15H10ClN3O4
reactant | NaOH | 50 ml | [OH-].[Na+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | charcoal | C | CH4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-3-hydroxy-3-(4,6-dimethoxy-2-pyrimidinyl)phthalide | ClC=1C=CC=C2C(OC(=O)C12)(C1=NC(=CC(=N1)OC)OC)O | C14H11ClN2O5
